US04448895
Prior to the preparation of the impregnating solution, chloroplatinic acid, H2PtCl6, was converted to the form of an ammoniacal platinum complex solution as follows: A 500 cc three-necked flask equipped with an agitater and a water cooler was charged with 100 cc of a chloroplatinic acid solution containing 10 g of Pt, and 55 cc of 9.7 N ammonia solution was added slowly to the flask to form an orange-colored precipitate of ammonium chloroplatinate. The flask was gently heated to 70° C. over the course of 30 minutes with continuous stirring, and then kept at this temperature for an additional 60 minutes to dissolve the precipitate completely. The cooled solution showed a light yellow color and had a pH of about 9.5. Finally, the concentration of platinum in the solution was adjusted to 40 g per liter of the solution.

reactant | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
reactant | chloroplatinic acid | 100 cc | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
reactant | ammonia | 9.7 N, 55 cc | N | H3N
solvent | water | O | H2O
product | ammonium chloroplatinate | [NH4+].[NH4+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl | InChI=1S/6ClH.2H3N.Pt/h6*1H;2*1H3;/q;;;;;;;;+4/p-4
